US07001897B2
To a solution of 3-hydroxypiperidine (1.0 g, 9.89 mmol) in tetrahydrofuran (50 ml) was added ethoxycarbonyl isothiocyanate (1.4 ml, 11.9 mmol) in an ice bath. The reaction mixture was brought to room temperature in 10 minutes and then stirred overnight. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure. The obtained residue was purified by chromatography on a silica gel column using toluene:ethyl acetate (1:2) as the eluant to afford (4-hydroxypiperidine-1-carbothioyl)carbamic acid ethyl ester (2.3 g, yield 100%) as a yellow oil.

reactant | 3-hydroxypiperidine | 9.89 mmol, 1.0 g | OC1CNCCC1 | C5H11NO
reactant | ethoxycarbonyl isothiocyanate | 11.9 mmol, 1.4 ml | C(C)OC(=O)N=C=S | C4H5NO2S
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (4-hydroxypiperidine-1-carbothioyl)carbamic acid ethyl ester | 2.3 g, yield 100% | C(C)OC(NC(=S)N1CCC(CC1)O)=O | C9H16N2O3S
